US05912258
Synthesis of 2-amino-5-benzylthio-1,3,4-thiadiazole
2-Amino-5-mercapto-1,3,4-thiadiazole (2.0 g), benzyl bromide (2.6 g), and potassium hydroxide (0.8 g) were stirred in methanol (50 ml) overnight at room temperature. The reaction mixture was concentrated under a vacuum. The residue, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride, and then concentrated under a vacuum. The resulting solid was recrystallized from n-hexane/ethanol, thereby yielding 2.4 g of the aimed compound.

reactant | 2-Amino-5-mercapto-1,3,4-thiadiazole | 2.0 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | benzyl bromide | 2.6 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium hydroxide | 0.8 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-5-benzylthio-1,3,4-thiadiazole | 2.4 g | NC=1SC(=NN1)SCC1=CC=CC=C1 | C9H9N3S2
